US08119647B2
Step 1: 7-Methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one:
To a stirred solution of 2-aminothiazole (5 g, 49.931 mmol) in acetic acid (40 ml) was added ethyl acetoacetate (9.48 ml, 74.843 mmol) at room temperature. The reaction mixture was heated to reflux for 12 h under nitrogen. The reaction mixture was cooled to room temperature. The residue obtained after concentration under reduced pressure was basified with saturated NaHCO3 solution and diluted with ethyl acetate (50 ml). The organic layer was washed with brine (100 ml), dried (Na2SO4) and concentrated to afford a crude product which was purified by silica gel column chromatography using 1% methanol in chloroform to give 3.3 g of the product as a white solid; 1H NMR (300 MHz, CDCl3) δ 2.38 (s, 3H), 6.15 (s, 1H), 6.95 (d, J=4.8 Hz, 1H), 7.94 (d, J=4.8 Hz, 1H).

reactant | 2-aminothiazole | 49.931 mmol, 5 g | NC=1SC=CN1 | C3H4N2S
reactant | ethyl acetoacetate | 74.843 mmol, 9.48 ml | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 7-Methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one | 3.3 g | CC=1N=C2N(C(C1)=O)C=CS2 | C7H6N2OS
